US03954860
Diphenyl α-(3,3-diphenylureido)-4-nitrobenzyl- phosphonate ##EQU20##
A mixture of 21.2g (0.1 mole) of 1,1-diphenylurea. 15.1g (0.1 mole) of 4-nitrobenzaldehyde, and 31.0g (0.1 mole) of triphenyl phosphite in 50g of benzene is stirred under nitrogen and warmed at reflux (87°C) for 2 hours to give a light yellow solution: 31P nmr -13.2 (d, J = 23Hz), -127.8 ppm (area ratio 5:1). Most of the benzene is removed at reduced pressure, and ether is stirred into the yellow oil remaining, causing 32g of solid to separate after a few minutes. A portion is recrystallized from acetonitrile to give a white solid: mp 157°-162°; 31P nmr -13.2 ppm (d, J = 24Hz); molecular weight (CHCl3) 565 (calcd 579).

reactant | 1,1-diphenylurea | 0.1 mole, 21.2g | C1(=CC=CC=C1)N(C(=O)N)C1=CC=CC=C1 | C13H12N2O
reactant | 4-nitrobenzaldehyde | 0.1 mole, 15.1g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | triphenyl phosphite | 0.1 mole, 31.0g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Diphenyl α-(3,3-diphenylureido)-4-nitrobenzyl- phosphonate | C1(=CC=CC=C1)N(C(NC(C1=CC=C(C=C1)[N+](=O)[O-])P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C32H26N3O6P
